US05686424
Using the procedure described previously, a solution of L-isoleucine, N-[1-(carboxymethyl)-L-prolyl] benzylamide (298 mg, 0.73 mmol), 4-N,N-dimethylaminopyridine (95 mg, 0.77 mmol, 1.2 eq), 1,3-dicyclohexylcarbodiimide (243 mg, 1.18 mmol, 1.8 eq) in dichloromethane (10 mL) was treated with (S)-2-methyl-1-phenyl-1-propanol (100 mg, 0.64 mmol, 1.3 eq). After TLC indicated the reaction was complete, the mixture was purified by HPLC to provide 104 mg (32%) of L-isoleucine, N-[1-(2-(2-methyl-1-(S)-phenyl-1-propoxy)-2-oxoethyl)-L-prolyl] benzylamide.

reactant | L-isoleucine, N-[1-(carboxymethyl)-L-prolyl] benzylamide | 0.73 mmol, 298 mg | C(=O)(O)CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1 | C20H29N3O4
reactant | 1,3-dicyclohexylcarbodiimide | 1.18 mmol, 243 mg, 1.8 eq | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (S)-2-methyl-1-phenyl-1-propanol | 0.64 mmol, 100 mg, 1.3 eq | CC([C@H](O)C1=CC=CC=C1)C | C10H14O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | L-isoleucine, N-[1-(2-(2-methyl-1-(S)-phenyl-1-propoxy)-2-oxoethyl)-L-prolyl] benzylamide | 104 mg, 32% | CC([C@H](OC(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O)C1=CC=CC=C1)C | C30H41N3O4
